US05239075
F. 8-fluoro-4,10b-dimethyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
Triethylsilane (1 ml; 6.12 mmol) was added to 8-fluoro-4,10b dimethyl-1,2,3,4,6,10b-hexahydrobenzo[f]quinolin-3-one (500 mg; 2.04 mmol) in CH2Cl2 (15 ml) at room temperature. The reaction mixture was cooled to 0° C. and trifluoroacetic acid (2.6 ml) was added. After stirring at room temperature for four days, the reaction mixture was diluted with CH2Cl2 and treated with saturated NaHCO3. The resulting layers were separated and the organic layer was washed with saturated NaHCO3, dried over MgSO4 and concentrated under vacuum to a yellow oil.

reactant | Triethylsilane | 6.12 mmol, 1 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 8-fluoro-4,10b dimethyl-1,2,3,4,6,10b-hexahydrobenzo[f]quinolin-3-one | 2.04 mmol, 500 mg | FC1=CC2=C(C3(CCC(N(C3=CC2)C)=O)C)C=C1 | C15H16FNO
reactant | trifluoroacetic acid | 2.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 8-fluoro-4,10b-dimethyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | FC1=CC2=C(C3(CCC(N(C3CC2)C)=O)C)C=C1 | C15H18FNO
